US07622589B2
2-(4-tert-Butylphenyl)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}cyclopropanecarboxamide
To a DMF (10 ml) solution of trans-2-(4-tert-butylphenyl)cyclopropanecarboxylic acid (435 mg, 1.89 mmol)) [Journal of medicinal chemistry, 2005, vol. 48, 71-90], EDC (572 mg, 3.0 mmol), DMAP (73 mg, 0.6 mmol), triethylamine (0.836 ml) and N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (507 mg, 1.89 mmol) were added and the mixture was stirred for 5 hours at room temperature. Then, the reaction was quenched with saturated sodium bicarbonate aqueous solution and the whole was extracted with EtOAc/hexane (3:1), and dried over sodium sulfate. Then, filtration, evaporation, and purification by silica gel column chromatography, eluting with hexane/EtOAc (1:2), gave title compound (75 mg, 9% yield) as white solids.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | trans-2-(4-tert-butylphenyl)cyclopropanecarboxylic acid | 1.89 mmol, 435 mg | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C14H18O2
reactant | EDC | 3.0 mmol, 572 mg
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 1.89 mmol, 507 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
catalyst | DMAP | 0.6 mmol, 73 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 0.836 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butylphenyl)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}cyclopropanecarboxamide | 75 mg, 9% yield | C(C)(C)(C)C1=CC=C(C=C1)C1C(C1)C(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F | C22H27FN2O3S
